US07906705B2
Gal-1-Phospate uridyltransferase (UT): Two separate methods were used to measure UT activity in light of the near absence of activity in melon fruit. A continuous coupled enzyme assay modified from Elsevier and Fridovich-Keil (1996), J Biol Chem 271: 32002-32007, was carried out in a 0.5 ml reaction mixture containing 50 mM HEPES-NaOH (pH 7.8), 5 mM MgCl2, 0.5 mM DTT, 10 mM Gal-1-P, 1 mM NAD, 10 μM gl-1,6 bis P, 1 U G6PDH (from Leuconostoc), 2 U PGM, and enzyme sample. The reaction was initiated by 4 mM UDP-Glc and monitored for 10 min at 37° C. The amount of Glc-1-P produced was expressed as the amount of enzyme necessary to produce 1 μmol Glc-1-P per min at 37° C. Alternatively, a two-step end point assay, modified from Main et al. (1983), Physiol Plant 59: 387-392, was used for determining UT activity. The reaction buffer contained 25 mM HEPES-NaOH (pH 7.5), 1 mM EDTA, 5 mM MgCl2, 0.5 mM DTT with addition of 10 mM Gal-1-P and 10 μl of partially purified enzyme sample in a 100 μl reaction mixture. The reaction was initiated by 4 mM UDP-Glc and stopped after 10 min by boiling for 2 min and the mixture was cooled on ice. For the measurement of the Glc-1-P product 400 μl consisting of 50 mM HEPES-NaOH pH (7.8) 5 mM MgCl2, 1 mM NAD, 10 μM gl-1,6 bis P, 2 U PGM and 1 U G6PDH. After 40 min incubation at 30° C. , absorbance of NADH product was recorded at 340 nm.

reactant | HEPES NaOH | 50 mM, pH 7.8 | C1CN(CCN1CCO)CCS(=O)(=O)O.[OH-].[Na+]
reactant | MgCl2 | 5 mM | [Mg+2].[Cl-].[Cl-]
reactant | DTT | 0.5 mM | C([C@H]([C@@H](CS)O)O)S | C4H10O2S2
reactant | NAD | 1 mM | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | UDP-Glc | 4 mM | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)O[C@@H]3[C@@H]([C@H]([C@@H]([C@H](O3)CO)O)O)O)O)O | C15H24N2O17P2
product | Glc-1-P | C([C@@H]1[C@H]([C@@H]([C@H](C(O1)OP(=O)(O)O)O)O)O)O | C6H13O9P
